US08106236B2
Preparation of (4″-chloro-4-trifluoromethyl-[1,1′;3′,1″]terphenyl-5′-yl)-acetic acid methyl ester
A solution of (5-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester (100 mg, 0.2 mmol), 4-chlorophenyl boronic acid (41 mg, 0.24 mmol), K2CO3 (2 M solution in H2O, 220 μL, 0.4 mmol) in DME (2.0 mL) was heated to 80° C. in the presence of bis(tri-t-Butylphosphine) palladium (0) (cat) for 2 hrs. The mixture was cooled to room temperature filtered, diluted with EtOAc, washed with Na2CO3, dil HCl, brine, dried (MgSO4) and evaporated under reduced pressure to give an off white solid. The residue was purified by flash column chromatography (EtOAc:petroleum ether), 1H NMR (CDCl3) δ 7.71 (s, 4H), 7.65-7.68 (m, 1H), 7.42 (d, 2H), 7.52-7.48 (m, 2H), 7.36 (d, 2H), 3.77 (s, 2H), 3.74 (s, 3H)

reactant | (5-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | 0.2 mmol, 100 mg | C(C)OC(CC=1C=C(C=C(C1)OS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C18H14F6O5S
reactant | 4-chlorophenyl boronic acid | 0.24 mmol, 41 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | K2CO3 | 0.4 mmol, 2 M, 220 μL | C(=O)([O-])[O-].[K+].[K+]
solvent | DME | 2.0 mL | COCCOC | C4H10O2
catalyst | bis(tri-t-Butylphosphine) palladium (0) | [Pd].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
product | (4″-chloro-4-trifluoromethyl-[1,1′;3′,1″]terphenyl-5′-yl)-acetic acid methyl ester | COC(CC=1C=C(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)Cl)=O | C22H16ClF3O2
